US06211199B1
58.3 Synthesis of 1-(2-(3-carboethoxypropyloxy)-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine
Combine 1-(2-(3-carboethoxypropyloxy)-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (0.15 g, 0.3 mmol) and dichloromethane (5 mL). Cool in an ice bath. Add N,N,-diisopropylethylamine (0.12 mL, 86.5 mg, 0.67 mmol), and methanesulfonyl chloride (0.035 mL, 52 mg, 0.46 mmol). After 2 hours, dilute the reaction mixture with dichloromethane and extract with aqueous 1 M hydrochloric acid solution, water, and then a saturated aqueous solution of sodium bicarbonate. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give the title compound: Rf=0.23 (silica gel, ethyl acetate).

reactant | 1-(2-(3-carboethoxypropyloxy)-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine | 0.3 mmol, 0.15 g | C(=O)(OCC)CCCOC1=C(C(=O)N2CC(CC2)(CCO)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | C26H31N5O5
reactant | N,N,-diisopropylethylamine | 0.67 mmol, 0.12 mL, 86.5 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 0.46 mmol, 0.035 mL, 52 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(2-(3-carboethoxypropyloxy)-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | C(=O)(OCC)CCCOC1=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | C27H33N5O7S
